US05196454
5-Acetylamino-2-allylamino-tetraline-hydrochloride
Starting from 3.04 g (0.015 mol) of 5-acetylamino-2-tetralone and 4.2 g (0.045 mol) of allylaminehydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 3.30 g (78.4% of theory) and with a melting point of 263° C. which does not change after recrystallisation from methanol/water/ether.

reactant | 5-acetylamino-2-tetralone | 0.015 mol, 3.04 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | allylaminehydrochloride | 0.045 mol, 4.2 g | Cl.C(C=C)N
product | 5-Acetylamino-2-allylamino-tetraline-hydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)NCC=C | InChI=1S/C15H20N2O.ClH/c1-3-9-16-13-7-8-14-12(10-13)5-4-6-15(14)17-11(2)18;/h3-6,13,16H,1,7-10H2,2H3,(H,17,18);1H
